US06476030B1
1-(2,2-Difluoroethyl)-1H-[1,2,4]triazole (4.0 g, 0.030 mol) was heated at reflux in 37% aqueous formaldehyde for 2 days. The solution was allowed to cool to room temperature and was washed with dichloromethane (3×50 ml). The solution was then saturated with sodium chloride, and washed again with dichloromethane (3×50 ml). The combined organic washings were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 0 to 7.5% methanol in dichloromethane, yielding [2-(2,2-difluoroethyl)-2H-[1,2,4]triazol-3-yl]methanol as a solid (2.4 g). Data for the title compound: 1H NMR (250 MHz, CDCl3) δ 4.65 (2H, td, J=13.2, 4.3 Hz), 4.83 (2H, s), 6.17 (1H, tt, J=55.2,4.3 Hz), 7.86 (1H, s).

reactant | 1-(2,2-Difluoroethyl)-1H-[1,2,4]triazole | 0.030 mol, 4.0 g | FC(CN1N=CN=C1)F | C4H5F2N3
reactant | formaldehyde | C=O | CH2O
product | [2-(2,2-difluoroethyl)-2H-[1,2,4]triazol-3-yl]methanol | 2.4 g | FC(CN1N=CN=C1CO)F | C5H7F2N3O
